US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(3-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-(3-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a white solid in 96% yield: MS (ES+) m/z 386.3 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-(3-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC1=CC(=CC=C1)C(F)(F)F)=O | C18H18F3N3O3S
product | 4-methyl-2-(2-oxo-3-(3-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 96% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC(=CC=C1)C(F)(F)F)=O | C16H14F3N3O3S
